US04734421
In a manner analogous to Example 1, 1,5-dimethylimidazole-2-thione (0.80 g, 6.25 mmal) was treated with 6-hydroxy-7-hydroxymethyl-1,2,3,4-tetrahydrobenzopyran diacetate (1.70 g, 6.25 mmal) to afford 7-(((1,5-dimethyl-1H-imidazole-2-yl)thio)methyl)-6-hydroxy-1,2,3,4-tetrahydrobenzopyran (480 mg, 26%) mp 139°-140° C.

reactant | 1,5-dimethylimidazole-2-thione | 0.80 g | CN1C(NC=C1C)=S | C5H8N2S
reactant | 6-hydroxy-7-hydroxymethyl-1,2,3,4-tetrahydrobenzopyran diacetate | 1.70 g | C(C)(=O)O.C(C)(=O)O.OC=1C(=CC2=C(CCCO2)C1)CO
product | 7-(((1,5-dimethyl-1H-imidazole-2-yl)thio)methyl)-6-hydroxy-1,2,3,4-tetrahydrobenzopyran | 480 mg, 26% | CN1C(=NC=C1C)SCC1=CC2=C(CCCO2)C=C1O | C15H18N2O2S
